US08466201B2
To a stirred solution of 2-(2-aminoethoxy)ethanol (0.557 g), 5.31 mmol) and potassium carbonate (1.17 g, 8.48 mmol) in toluene (50 ml) and water (4 ml) at room temperature, was added 2-nitro-alpha-toluenesulfonyl chloride (1.00 g, 4.24 mmol) in one portion and the reaction was left to stir overnight. The reaction was diluted with ethyl acetate and water. The organic layer was separated before being washed with brine, dried over magnesium sulfate, filtered and the filtrate concentrated in vacuo. The crude material was purified by column chromatography eluting with ethyl acetate:hexane to afford N-[2-(2-hydroxyethoxy)ethyl]-1-(2-nitrophenyl)methanesulfonamide as product (0.155 g, 12%); Rf (ethyl acetate:hexane 2:1) 0.11; δH (400 MHz, CDCl3) 8.02 (1H, d), 7.67 (2H, m), 7.53 (1H, dt), 5.15 (1H, brs), 4.86 (2H, s), 3.71 (2H, s), 3.56 (4H, m), 3.19 (2H, m) and 2.36 (1H, s); LCMS Rt=2.60 min, m/z (APCI) 305 (MH+).

reactant | 2-(2-aminoethoxy)ethanol | 0.557 g | NCCOCCO | C4H11NO2
reactant | potassium carbonate | 8.48 mmol, 1.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-nitro-alpha-toluenesulfonyl chloride | 4.24 mmol, 1.00 g | [N+](=O)([O-])C1=C(C=CC=C1)CS(=O)(=O)Cl | C7H6ClNO4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(2-hydroxyethoxy)ethyl]-1-(2-nitrophenyl)methanesulfonamide | OCCOCCNS(=O)(=O)CC1=C(C=CC=C1)[N+](=O)[O-] | C11H16N2O6S
